US05064832
(a) 4-chloro-2-(3-bromophenyl)-pyridine
Starting from 3-bromophenyllithium, 4-chloropyridine and chloroformic acid phenyl ester (for the acylation of the pyridine nitrogen), the title compound is prepared analogously to J. Org. Chem. 50, 4410 (1985). A corresponding 1-acyl-1,2-dihydropyridine is formed as intermediate and is aromatised by reaction with o-chloroanil (=3,4,5,6-tetrachloro-1,2-benzoquinone) to form the title compound.

reactant | 3-bromophenyllithium | BrC=1C=C(C=CC1)[Li]
reactant | 4-chloropyridine | ClC1=CC=NC=C1 | C5H4ClN
reactant | chloroformic acid phenyl ester | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | pyridine nitrogen | [N].N1=CC=CC=C1
product | 4-chloro-2-(3-bromophenyl)-pyridine | ClC1=CC(=NC=C1)C1=CC(=CC=C1)Br | C11H7BrClN
